US07119221B2
LiOH.H2O (3.94 g, 93.9 mmol) and H2O (30 mL) were added to a solution of ethyl 1-9-[1-(ethoxycarbonyl)cyclobutyl]-5-oxononyl-1-cyclobutanecarboxylate (9.20 g, 23.3 mmol) in EtOH (90 mL) and the resulting mixture was stirred at reflux temperature for 17 h, allowed to cool to rt and concentrated in vacuo to a smaller volume. H2O (150 mL) was added and the resulting mixture was extracted with Et2O (50 mL), acidified with aqueous HCl (6 M, 25 mL) and extracted with Et2O (1×100 mL, 2×50 mL). The latter organic layers were combined, washed with brine (50 mL), dried (Na2SO4) and evaporated in vacuo. The remaining residue was recrystallized from a mixture of iPr2O and heptane to give 1-[9-(1-carboxycyclobutyl)-5-oxononyl]-1-cyclo-butanecarboxylic acid (4.41 g, 56%) as small, white granules. mp 69–70° C. 13H NMR (CDCl3): δ=11.2 (br s, 2H), 2.50–2.37 (m, 4H), 2.39 (t, J=7.2 Hz, 4H), 1.96–1.84 (m, 8H), 1.81–1.75 (m, 4H), 1.57 (quintet, J=7.4 Hz, 4H), 1.26–1.12 (m, 4H). 13C NMR (CDCl3): δ=210.6, 183.4 (2×), 47.6 (2×), 42.7 (2×), 37.8 (2×), 30.1 (4×). 24.7 (2×), 24.1 (2×), 15.7 (2×). Anal. calcd for C19H30O5: C, 67.43; H, 8.93, found: C, 67.19; H, 8.97.

reactant | LiOH.H2O | 93.9 mmol, 3.94 g | O[Li].O
reactant | H2O | 30 mL | O | H2O
reactant | ethyl 1-9-[1-(ethoxycarbonyl)cyclobutyl]-5-oxononyl-1-cyclobutanecarboxylate | 23.3 mmol, 9.20 g | C(C)OC(=O)C1(CCC1)CCCCC(CCCCC1(CCC1)C(=O)OCC)=O | C23H38O5
solvent | EtOH | 90 mL | CCO | C2H6O
product | 1-[9-(1-carboxycyclobutyl)-5-oxononyl]-1-cyclo-butanecarboxylic acid | 4.41 g, 56% | C(=O)(O)C1(CCC1)CCCCC(CCCCC1(CCC1)C(=O)O)=O | C19H30O5
